US05180426
Calcium pyrophosphate was reacted with calcium carbonate by a conventional method, and calcined to obtain tetracalcium phosphate in powder form. 2 grams of this powder was mixed with 1 g of a setting solution prepared by dissolving 0.1 g of chitosan ("Flonac N" made by Kyowa Yushi Kogyo K.K.) and 3 g of saccharose in 10 g of an aqueous solution of 40% citric acid. A plastic gum-like composition was obtained and this composition set in about 5 minutes to produce a setting material having a high strength.

reactant | Calcium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Ca+2].[Ca+2]
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
product | tetracalcium phosphate | P(=O)([O-])([O-])[O-].[Ca+2].[Ca+2].[Ca+2].[Ca+2] | InChI=1S/4Ca.H3O4P/c;;;;1-5(2,3)4/h;;;;(H3,1,2,3,4)/q4*+2;/p-3
